US08877782B2
d) [3-(4-Chloro-2-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol
As described for example 84d, 3-(4-chloro-2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester (6.3 g, 20 mmol) was converted, instead of 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester, to the title compound (2.1 g, 43%) which was obtained as an orange solid. MS: m/e=242.2 [M+H]+.

reactant | 3-(4-chloro-2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | 20 mmol, 6.3 g | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=C(C=C1)Cl)F | C13H11ClFNO3
reactant | 3-(2-fluoro-phenyl)-5-methyl-isoxazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=NOC1C)C1=C(C=CC=C1)F | C13H12FNO3
product | [3-(4-Chloro-2-fluoro-phenyl)-5-methyl-isoxazol-4-yl]-methanol | 2.1 g, 43% | ClC1=CC(=C(C=C1)C1=NOC(=C1CO)C)F | C11H9ClFNO2
